US06492403B1
A stirred solution of 1.9 g (7.3 mmol) of isopropyl 4-bromo-5-methylthiophene-2-carboxylate was dissolved in dry dimethylformamide (30 mL) and refluxed with copper cyanide (785 mg, 8.8 mmol) for 16 hours. The cooled solution was poured into 0.1 M aqueous sodium cyanide solution (300 mL) and extracted with diethyl ether (4×40 mL). The organic layers were washed with brine (2×40 mL), dried over anhydrous sodium sulfate, and the solvents removed in vacuo. Column chromatography on silica gel eluting with hexanes:ethyl acetate 9/1 (v:v), gave isopropyl 4-cyano-5-methylthiophene-2-carboxylate (960 mg, 63%) as a yellow crystalline solid 1H-NMR (DMSO-d6; 300 MHz) δ8.01 (s, 1H), 5.09 (septet, 1H, J=6.2 Hz), 2.67 (s, 3H), 1.29 (d, 6H, J=6.2 Hz).

reactant | isopropyl 4-bromo-5-methylthiophene-2-carboxylate | 7.3 mmol, 1.9 g | BrC=1C=C(SC1C)C(=O)OC(C)C | C9H11BrO2S
reactant | copper cyanide | 8.8 mmol, 785 mg | [Cu](C#N)C#N
reactant | sodium cyanide | 0.1 M, 300 mL | [C-]#N.[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | isopropyl 4-cyano-5-methylthiophene-2-carboxylate | 960 mg, 63% | C(#N)C=1C=C(SC1C)C(=O)OC(C)C | C10H11NO2S
